US05554632
3-(3-bromophenyl)-6,8-dihydro-7-methyl-2H-pyrrolo[3,4-e]benzimidazole.
A mixture of 6,8-dihydro-7-methyl-2H-pyrrolo[3,4-e]benzimidazole (0.25 g), K2CO3 (0.26 g), 3-bromo-1-iodobenzene (0.8 g) and Copper powder (15-20 mg) was heated in N-methyl-2-pyrrolidone (5 ml) at 180° C. for 3 hours. The mixture was then partitioned between EtOAc and water. The organic phase was dried over Na2SO4 and evaporated. The oily residue was purified on SiO2 with EtOAc as the eluent. 1H--NMR (500MHz,CDCl3) ppm: 2.8(s,3H), 4.2(s,2H), 4.45(s,2H), 7.2-7.7(m,6H aromatic) 8.1 (s, 1H imidazole).

reactant | 6,8-dihydro-7-methyl-2H-pyrrolo[3,4-e]benzimidazole | 0.25 g | CN1CC2=C(C=CC3=NCN=C32)C1 | C10H11N3
reactant | K2CO3 | 0.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1-iodobenzene | 0.8 g | BrC=1C=C(C=CC1)I | C6H4BrI
solvent | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
catalyst | Copper | 15-20 mg | [Cu] | Cu
product | 3-(3-bromophenyl)-6,8-dihydro-7-methyl-2H-pyrrolo[3,4-e]benzimidazole | BrC=1C=C(C=CC1)N1CNC2=C1C=CC1=C2CN(C1)C | C16H16BrN3
